US08633175B2
Step 1: Ethyl 5-{3-[(2-oxoethyl)oxy]phenyl}-2-thiophenecarboxylate
Ethyl 5-(3-{[2,2-bis(ethyloxy)ethyl]oxy}phenyl)-2-thiophenecarboxylate (Intermediate KK-2-3) (1.41 g, 3.87 mmol) was dissolved in 20 ml of chloroform and cooled to 0° C. 5 ml of 50% aqueous trifluoroacetic acid solution was added. The mixture was stirred for 15 h at room temperature and 6 h at 65° C., cooled, diluted with chloroform and neutralized with saturated sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (10 to 50% ethyl acetate in hexanes) to afford the title compound as a white crystalline solid.

reactant | Ethyl 5-(3-{[2,2-bis(ethyloxy)ethyl]oxy}phenyl)-2-thiophenecarboxylate | 3.87 mmol, 1.41 g | C(C)OC(COC=1C=C(C=CC1)C1=CC=C(S1)C(=O)OCC)OCC | C19H24O5S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Ethyl 5-{3-[(2-oxoethyl)oxy]phenyl}-2-thiophenecarboxylate | O=CCOC=1C=C(C=CC1)C1=CC=C(S1)C(=O)OCC | C15H14O4S
